US06858627B2
Synthesis of N-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]benzamide
A round bottom flask equipped with a stir bar was charged with EDC (0.224 mmol, 1.1 equiv), HOBT (0.224 mmol, 1.1 equiv), benzoic acid (0.224 mmol, 1.1 equiv), 4-aminomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline (0.204 mmol, 1 equiv) and 3.3 mL of methylene chloride. Diisopropyl ethyl amine (0.224 mmol, 1.1 equiv) was added last, the reaction was placed under argon, and stirred at room temperature overnight. The crude reaction mixture was transferred to a separatory funnel, diluted with EtOAc, and washed with 1 N HCl, aqueous saturated sodium bicarbonate (NaHCO3) solution, and brine. The organics were concentrated in vacuo to afford a brown oil. The product was purified by column chromatography using silica gel eluting with a gradient of 10-50% EtOAc/hexanes. The product fractions were pooled and concentrated in vacuo to afford 18 mg of the title compound as a yellow oil.

reactant | EDC | 0.224 mmol, 1.1 equiv
reactant | HOBT | 0.224 mmol, 1.1 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | benzoic acid | 0.224 mmol, 1.1 equiv | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 4-aminomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 0.204 mmol, 1 equiv | NCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H22N2O
reactant | Diisopropyl ethyl amine | 0.224 mmol, 1.1 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 3.3 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]benzamide | 18 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC(C1=CC=CC=C1)=O | C26H26N2O2
